US04460580
A suspension of 60 g of 6-(2-bromoethoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one in 110 ml of benzylamine is heated, with stirring, for 30 minutes in a bath at 80°. The reaction mixture is thereupon adjusted with conc. hydrochloric acid, using ice-cooling, to a pH value of about 3, and is allowed to stand until crystallisation occurs. The crystals are filtered off with suction after 4 hours, washed with 100 ml each of water and of ethyl acetate, and dried. The crude 5-(2-benzylamino-ethoxy)-salicylamide hydrochloride obtained melts at 214°-216°. The base liberated therefrom melts at 107°-108° (from ethyl acetate/ether).

reactant | 6-(2-bromoethoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | 60 g | BrCCOC=1C=CC2=C(C(NC(O2)(C)C)=O)C1 | C12H14BrNO3
reactant | hydrochloric acid | Cl | ClH
solvent | benzylamine | 110 ml | C(C1=CC=CC=C1)N | C7H9N
product | 5-(2-benzylamino-ethoxy)-salicylamide hydrochloride | Cl.C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | InChI=1S/C16H18N2O3.ClH/c17-16(20)14-10-13(6-7-15(14)19)21-9-8-18-11-12-4-2-1-3-5-12;/h1-7,10,18-19H,8-9,11H2,(H2,17,20);1H
